US05763599
Thymidine (1 g, 4.13 mmol) was co-evaporated with pyridine (3×10 ml, pro analysi quality, additionally dried over molecular sieve 4 Å), dissolved in pyridine (15 ml, see above) and cooled down to -50° C. A solution of 2-(2,6-dinitrophenyl)ethoxycarbonyl chloride (1.7 g, 6.19 mmol) in CH2Cl2 (15 ml, dist. over CaH2) was added dropwise thereto for 1 h. After a further 3.5 h stirring in conditions of i-PrOH/N2 cooling (-50° to -20° C.), the mixture was diluted with CH2Cl2 (50 ml) and washed with H2O (50 ml). The aqueous phases were post-extracted with CH2Cl2 (2×50 ml). The combined organic phases were dried over Na2SO4, filtered, concentrated under reduced pressure and co-evaporated using toluene (3×50 ml). The crude product (2.66 g) was treated with CH2Cl2 /MeOH 2:1 (60 ml) at boiling temperature. The white precipitate obtained was filtered by suction and recrystallized from MeOH (25 ml). 5'-O-(2-(2,6-dinitrophenyl)ethoxycarbonyl)thymidine (855 mg, 43%) was obtained as a colorless solid. The combined filtrates were concentrated under reduced pressure to a dry state and purified by column chromatography (1.4 g crude product, 56 g SiO2 17×3 cm, CH2Cl2 /MeOH 100:5 1240 ml, 100:7 105 ml, 100:10 330 ml). 5'-O-(2-(2,6-dinitrophenyl)ethoxcarbonyl)thymidine (691 mg, 34.8%) was obtained as a colorless solid. The yield of 5'-O-(2-(2,6-dinitrophenyl)ethoxycarbonyl)thymidine totalled 1.55 g (78%)

reactant | Thymidine | 4.13 mmol, 1 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 2-(2,6-dinitrophenyl)ethoxycarbonyl chloride | 6.19 mmol, 1.7 g | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])CCOC(=O)Cl | C9H7ClN2O6
reactant | i-PrOH N2 | CC(C)O.N#N
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 5'-O-(2-(2,6-dinitrophenyl)ethoxycarbonyl)thymidine | 855 mg, 43% | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])CCOC(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O | C19H20N4O11
